US08084448B2
B. 5-[2-Benzyloxy-4-(pyridine-2-carbonyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-(hydroxypyridin-2-yl-methyl)-phenyl]1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (45 mg, 0.085 mmol) in acetic acid (2 mL) is added iron powder (24 mg, 0.43 mmol) and the mixture is refluxed for 2 h. The reaction is diluted with EtOAc and filtered. The solvent is removed under reduced pressure and the crude material is purified by flash chromatography using a gradient of 0-50% EtOAc/hexane to afford the title compound as a yellow oil: (M+H)+=524.

reactant | 5-[2-benzyloxy-4-(hydroxypyridin-2-yl-methyl)-phenyl]1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.085 mmol, 45 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C1=NC=CC=C1)O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C26H31N3O5SSi
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | iron | 0.43 mmol, 24 mg | [Fe] | Fe
product | 5-[2-Benzyloxy-4-(pyridine-2-carbonyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(=O)C1=NC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C26H29N3O5SSi
